US08293768B2
To a stirred solution of tert-butyl 4-(hydroxymethyl)phenylcarbamate (0.50 g, 2.24 mmol) in dichloromethane was added pyridine (3 drops), followed by the dropwise addition of thionyl chloride (0.35 mL, 4.98 mmol). The resulting reaction mixture was stirred for 30 minutes, and then quenched with water (25 mL). The aqueous layer was extracted with dichloromethane (50 mL), and the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford tert-butyl 4-(chloromethyl)-phenylcarbamate as an orange solid in 50% yield (0.27 g, 50%): 1H NMR (300 MHz, CDCl3) δ 7.38-7.28 (m, 4H), 6.51 (br s, 1H), 4.55 (s, 2H), 1.52 (s, 9H).

reactant | tert-butyl 4-(hydroxymethyl)phenylcarbamate | 2.24 mmol, 0.50 g | OCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H17NO3
reactant | thionyl chloride | 4.98 mmol, 0.35 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(chloromethyl)-phenylcarbamate | 50% yield | ClCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H16ClNO2
